*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/1.00e-03[uF]/100[V]
* Murata P/N :GRM155R72A102MA01
* Property : C = 1.00e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 400[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R72A102MA01 Port1 Port2
C01 Port1 N01 9.80e-10
R01 Port1 N01 1.00e+10
L02 N01 N02 1.37e-10
R03 N02 N03 2.09e-01
C04 N03 N04 2.18e-07
R04 N03 N04 2.63e+00
C05 N04 N05 5.90e-08
R05 N04 N05 1.79e+00
C06 N05 N06 2.65e-08
R06 N05 N06 4.94e-01
C07 N06 N07 6.39e-09
R07 N06 N07 1.94e-01
C08 N07 N08 3.25e-10
L08 N07 N08 3.96e-11
R08 N07 N08 2.53e-01
C09 N08 Port2 1.26e-12
L09 N08 Port2 1.98e-10
R09 N08 Port2 2.24e+01
.ENDS GRM155R72A102MA01
